US08835449B2
(Z)-Ethyl 3-((2-amino-2-oxoethyl)amino)-3-(2-(2-hydroxyethoxy)phenyl)acrylate
To a solution of ethyl 3-(2-(2-hydroxyethoxy)phenyl)-3-oxopropanoate (2 g, 7.94 mmol) and glycinamide hydrochloride (3.5 g, 31.7 mmol) in methanol (20 mL) was added triethylamine (3.21 g, 31.7 mmol) at room temperature. The mixture was stirred at 40° C. for 20 min. Acetic acid (1.9 g, 31.7 mmol) was added, and the mixture was stirred at 80° C. for 18 hours. The reaction mixture was cooled to room temperature and saturated sodium bicarbonate (200 mL) was added. The organic layer was separated, dried (Na2SO4) and concentrated to give a yellow solid. The solid was washed with EtOAc (20 mL), and the residue was dried under reduced pressure to give the title compound as a white solid. This material was used without further purification.

reactant | ethyl 3-(2-(2-hydroxyethoxy)phenyl)-3-oxopropanoate | 7.94 mmol, 2 g | OCCOC1=C(C=CC=C1)C(CC(=O)OCC)=O | C13H16O5
reactant | glycinamide hydrochloride | 31.7 mmol, 3.5 g | Cl.NCC(=O)N
reactant | triethylamine | 31.7 mmol, 3.21 g | C(C)N(CC)CC | C6H15N
reactant | Acetic acid | 31.7 mmol, 1.9 g | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | (Z)-Ethyl 3-((2-amino-2-oxoethyl)amino)-3-(2-(2-hydroxyethoxy)phenyl)acrylate | NC(CN\C(=C/C(=O)OCC)\C1=C(C=CC=C1)OCCO)=O | C15H20N2O5
